US09119868B2
A 1M solution of LiHMDS in THF (1.049 mL, 1.049 mmol) was added dropwise to a solution of ethyl 6-((4-bromo-3-chlorophenyl)amino)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate (440 mg, 0.807 mmol) in THF (15 mL) at −78° C. After stirring for 45 min, the red solution was added dropwise via cannula to a solution of MsCl (0.252 mL, 3.23 mmol) in THF (1 mL) at −78° C. Upon complete addition the yellow solution was allowed to warm to RT and stirred overnight. Water (150 mL) and EtOAc (150 mL) were added. The organic layer was separated and washed with water, brine, dried over MgSO4, filtered and concentrated. The crude product was purified on silica gel (hex/EtOAc) to give ethyl 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate (259 mg, 0.395 mmol, 49% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.22 (s, 1H), 8.05 (d, 2H), 7.78 (d, 1H), 7.64-7.71 (m, 3H), 7.62 (s, 1H), 7.31 (dd, 1H), 4.35 (q, 2H), 3.46 (s, 3H), 2.10-2.22 (m, 1H), 1.34 (t, 3H), 0.69-1.13 (m, 3H), 0.42 (br. s., 1H).

reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 6-((4-bromo-3-chlorophenyl)amino)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate | 0.807 mmol, 440 mg | BrC1=C(C=C(C=C1)NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)OCC)C=C1C1CC1)Cl | C26H20BrCl2NO3
reactant | MsCl | 3.23 mmol, 0.252 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 150 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1.049 mmol, 1.049 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | ethyl 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate | 0.395 mmol, 259 mg, 49% yield | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)OCC)C=C1C1CC1)Cl | C27H22BrCl2NO5S
